US04826866
3-[(4-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester
A suspension of 20.1 g (0.10 mole) of 4-(4-chlorophenyl)-3-thiosemicarbazide in 80 mL of absolute ethanol was treated with 16.5 g (0.10 mole) of ethyl 2-chloroacetoacetate and the mixture stirred for 1.0 hr at room temperature. Alcoholic hydrogen chloride (2N, 60 mL) was added and the dark precipitate dissolved while heating the mixture at reflux for 1.0 hr. The solution was filtered while hot, and the filter cake washed with absolute ethanol. The filtrate was evaporated under reduced pressure and the residue triturated in cold absolute ethanol and filtered. Both filter cakes were found to be the same compound by TLC (10% methanol in benzene on silica gel). The two were combined, dissolved in hot absolute ethanol (the hydrochloride salt was water insoluble), partially neutralized with saturated aqueous sodium bicarbonate, and the solid filtered (10.4 g, mp 212°-226° C.). A second crop was obtained by treating the filtrate with saturated aqueous sodium bicarbonate (11.5 g, mp 220°-225° C.). The second crop was recrystallized from absolute ethanol to give 3.8 g of product, mp 223°-225° C. This solid was dried at 100° C./0.1 mmHg/3 hr; then for ~16 hr at RT/0.1 mmHg.

reactant | 4-(4-chlorophenyl)-3-thiosemicarbazide | 0.10 mole, 20.1 g | ClC1=CC=C(C=C1)NC(NN)=S | C7H8ClN3S
reactant | ethyl 2-chloroacetoacetate | 0.10 mole, 16.5 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 60 mL | Cl | ClH
reactant | sodium bicarbonate | 11.5 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-[(4-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.8 g | ClC1=CC=C(C=C1)NC1=NNC(=C1C(=O)OCC)C | C13H14ClN3O2
